Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
___: Lumbar puncture 

 
History of Present Illness:
___ male with no significant PMH referred from urgent
care due to concern for viral meningitis.

Patient reports 2 days of headache, gradual onset beginning
___ evening. Associated chills. No neck stiffness, confusion,
visual changes, photophobia. Patient has had chronic headache 
for
2 days, without any improvement. Also has noted 1 week of a red
bump on his scalp, new red bump under his right nose and on his
right lower lip. No history of cold sores. Was seen at urgent
care today, they noted a vesicle on his right external ear,
concern for possible HSV meningitis, and referred him for lumbar
puncture.

In the ED:

Initial vital signs were notable for:
99.2
96
126/83
18
98% RA

Exam notable for: red lesion on right scalp, under right lip.
Kernig, Bruzinski negative, AOx3, neuro intact.

Labs were notable for: Cr 1.4

He underwent LP which showed TNC 128 (80% lymphs) and RBC 2 in
fourth tube, with total protein 58 and glucose 54.

Patient was given: 2L IVF, CTX 1g (for "strep" skin infection),
and 1g tylenol. Head CT showed no acute abnormality. 

Vitals on transfer:
99.2
87
134/72
16
97% RA

Upon arrival to the floor, the patient states that he feels 
"100%
better". He states that he had a ___ headache starting ___
that started at the ___ his head and radiated down the 
back
of his neck. He denies nausea, vomiting, diarrhea, rhinorrhea. 
No
recent travel. He does spend a good amount of time outdoors
although he has not noticed any ticks. He had chicken pox as a
child. No genital lesions. No facial paralysis or muscle
weakness. 

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
None
 
Social History:
___
Family History:
Reviewed and is noncontributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: reviewed in chart
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. A 1 cm papule is present on the chin; 2cm erythematous
papule on the scalp. No lesions noted in the external ear. No
pain or stiffness with neck movement.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No rash.
NEUROLOGIC: PERRL, EOMI, face symmetric. ___ strength 
throughout.
Normal sensation. 

DISCHARGE PHYSICAL EXAM:
VITALS:
24 HR Data (last updated ___ @ 1557)
    Temp: 97.9 (Tm 98.3), BP: 118/69 (118-155/69-92), HR: 71
(68-86), RR: 16 (___), O2 sat: 99% (96-99), O2 delivery: Ra  
Fluid Balance (last updated ___ @ 1425) 
    Last 24 hours  Total cumulative 974ml
    IN: Total 1384ml, PO Amt 1130ml, IV Amt Infused 254ml
    OUT:  Total 410ml, Urine Amt 410ml    
 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. ___ oral vesicular lesions right of midline on the 
hard
palate. A 1 cm vesicle is present on the chin; 2cm erythematous
papule on the scalp with crusting. No lesions noted in the
external ear. No pain or stiffness with neck movement.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No rash.
NEUROLOGIC: PERRL, EOMI, face symmetric. ___ strength 
throughout.
Normal sensation. 
 
Pertinent Results:
ADMISSION LABS:

___ 03:11PM BLOOD WBC-7.0 RBC-4.74 Hgb-14.8 Hct-43.2 MCV-91 
MCH-31.2 MCHC-34.3 RDW-11.9 RDWSD-40.1 Plt ___
___ 03:11PM BLOOD Neuts-57.1 ___ Monos-11.4 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-3.99 AbsLymp-2.13 
AbsMono-0.80 AbsEos-0.03* AbsBaso-0.02
___ 03:11PM BLOOD Plt ___
___ 03:11PM BLOOD Glucose-125* UreaN-14 Creat-1.4* Na-138 
K-4.5 Cl-98 HCO3-28 AnGap-12
___ 07:00AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.0

PERTINENT LABS:
___ 11:54AM BLOOD HIV Ab-NEG

DISCHARGE LABS:
___ 07:30AM BLOOD WBC-5.6 RBC-4.52* Hgb-14.0 Hct-40.8 
MCV-90 MCH-31.0 MCHC-34.3 RDW-12.0 RDWSD-39.8 Plt ___
___ 07:30AM BLOOD Glucose-106* UreaN-14 Creat-1.3* Na-142 
K-4.6 Cl-102 HCO3-27 AnGap-13
___ 07:30AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.0

MICRO:
__________________________________________________________
___ 10:11 am THROAT FOR STREP

                            **FINAL REPORT ___

   R/O Beta Strep Group A (Final ___: 
      NO BETA STREPTOCOCCUS GROUP A FOUND. 
__________________________________________________________
___ 11:54 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 3:00 pm CSF;SPINAL FLUID      #3  LP. 
      VIC ADD ON REQUEST PER ___ ON ___ AT 0852. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   Enterovirus Culture (Preliminary):    No Enterovirus 
isolated. 

HSV PCR ___: NEGATIVE

IMAGING:
CT HEAD WITHOUT CONTRAST
No evidence of acute intracranial abnormality.
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ with a PMH of chylamidia and chicken pox who presented with 
2
days of headache and chills, and oral ulcers with lumbar 
puncture consistent with aseptic meningitis.

Active Issues
==============
# Viral meningitis:
# Headache:
Patient presented with headache and chills as well as recent 
sick contacts and multiple vesicular oral and facial ulcers 
without any meningismus signs and intact cognition. There was 
initial concern for encephalitis or bacterial meningitis, 
however, LP showed lymphocyte predominance, few RBCs, slightly 
elevated protein, negative gram stain and decreased glucose 
consistent with aseptic meningitis. The patient was started on 
acyclovir and given adequate IV and oral hydration. There was 
initially concern for HSV meningitis. However, HSV and 
enterovirus PCR were found to be negative. VZV pcr was pending 
at the time of discharge and thus the patient was treated with 
valacyclovir on discharge.

#Elevated creatinine
Cr 1.4 in the ED. While the pattern of injury does not
necessarily fit a pre-renal etiology given the patient's recent
illness decreased oral intake is likely contributing to his ___.
Patient's creatinine down trended after increased hydration with 
oral and IV fluids.

Transitional Issues
====================
[] follow up elevated Creatinine as an outpatient within 1 week
[] please continue valacyclovir 2g BID - This course was 
extended given +results of VZV PCR which returned after 
discharge
[] consider lyme serologies if patient not improving

Code: full
Contact: ex-wife ___ ___
 
___ on Admission:
The patient wa snot taking medications on admission 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  ValACYclovir ___ mg PO BID 
RX *valacyclovir 1,000 mg 2 tablet(s) by mouth twice daily Disp 
#*4 Tablet Refills:*0
RX *valacyclovir 1,000 mg 2 tablet(s) by mouth twice a day Disp 
#*4 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
==================
Aseptic Meningitis 

Secondary Diagnosis
====================
Acute Kidney Injury 
Herpes Simplex Virus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
-You were in the hospital due to fever and headache. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- You were treated for an infection in the fluid that surrounds 
your brain.  You also underwent testing to determine the exact 
cause of your infection. You were treated with medications to 
help prevent the infection from becoming worse. 
- You improved considerably and were felt well enough to leave 
the hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments. 
- We recommend seeing your primary care physician to discuss 
your medications within the next 2 weeks. 

We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___